US07825160B2
[3-(4-Fluoro-benzyloxy)-5-hydroxy-phenyl]-acetic acid methyl ester (0.14 g) in DCM (5 ml) was treated with pyridine (116 μl, 1.44 mmol) and trifluoromethanesulfonic anhydride (0.16 g, 0.58 mmol) was added dropwise. The mixture was stirred for 3 h at room temperature. The mixture was diluted with further DCM, washed with HCl solution (IM aq), dried (MgSO4) and concentrated under vacuum to give [3-(4-fluoro-benzyloxy)-5-trifluoromethanesulfonyloxy-phenyl]-acetic acid methyl ester as an orange-brown oil (0.16 g).

reactant | [3-(4-Fluoro-benzyloxy)-5-hydroxy-phenyl]-acetic acid methyl ester | 0.14 g | COC(CC1=CC(=CC(=C1)O)OCC1=CC=C(C=C1)F)=O | C16H15FO4
reactant | pyridine | 1.44 mmol, 116 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.58 mmol, 0.16 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | [3-(4-fluoro-benzyloxy)-5-trifluoromethanesulfonyloxy-phenyl]-acetic acid methyl ester | 0.16 g | COC(CC1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)OCC1=CC=C(C=C1)F)=O | C17H14F4O6S
